US05283359
5-Glyoxyloyl-salicylic acid methyl ester hydrate Using Aqueous HBr
To a 3-neck flask immersed in an oil bath containing a solution of 40 g (0.206 mole) methyl 5-acetylsalicylate in 6 ml methylene chloride is charged with 82 ml of isopropanol. The solution is distilled to remove excess methylene chloride. When the internal temperature reaches 77° C., 126 ml (1.77 mole or 8.6 equivalents) of DMSO is added to the reaction mixture and the temperature of the mixture is increased to a temperature of 85° to 90° C. Then 33 ml (0.29 mole or 1.4 equivalents) or HBr (aqueous, 48%) is added to the mixture over a period of 20 minutes (exothermic), and the bath temperature is maintained at 95° to 100° C. As the addition of HBr nears completion distillation is initiated and dimethysulfide and isopropanol are distilled off. The mixture is stirred and the volume of the distillate monitored. After distillation of 82 ml of solvent, 20 ml of IPA is added slowly to maintain a steady rate of distillation. After the reaction completed as determined by high performance liquid chromatography (HPLC), the reaction mixture is quenched with 70 ml of 2.4N H2SO4, the temperature of the reaction mixture is allowed to drop to 75° C. and residual isopropanol is distilled off under vacuum. After a total of 165 ml distillate is collected, the title compound begins to precipitate. A mixture of 30 ml of acetonitrile (CH3CN) and 70 ml of water is added slowly at 75° C. with stirring. After 30 minutes of stirring, the reaction mixture is cooled to 15° C. over a period of 90 minutes to complete the precipitation. The reaction mixture is filtered and the cake is washed with three 300 ml portions of water. The cake is dried in a draft oven at 50° C. for 16 hours to give 39.5 g of the title compound (85% yield).

reactant | methyl 5-acetylsalicylate | 0.206 mole, 40 g | C(C)(=O)C1=CC=C(C(C(=O)OC)=C1)O | C10H10O4
reactant | isopropanol | 82 ml | C(C)(C)O | C3H8O
reactant | DMSO | 1.77 mole, 126 ml, 8.6 equivalents | CS(=O)C | C2H6OS
reactant | HBr | Br | BrH
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 5-Glyoxyloyl-salicylic acid methyl ester hydrate | 39.5 g, 85% yield | O.COC(C=1C(O)=CC=C(C1)C(C=O)=O)=O | InChI=1S/C10H8O5.H2O/c1-15-10(14)7-4-6(9(13)5-11)2-3-8(7)12;/h2-5,12H,1H3;1H2
